US04582775
On reacting 27 g of phenyl isothiocyanate and 15 g of acetylhydrazine in ethanol at room temperature, 1-acetyl-4-phenylthiosemicarbazide was formed. This 1-acetyl-4-phenylthiosemicarbazide was filtered off and heated under reflux in ethanol in the presence of sodium ethylate whereupon 3-mercapto-5-methyl-4-phenyl-1,2,4-triazole was formed.

reactant | phenyl isothiocyanate | 27 g | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | acetylhydrazine | 15 g | C(C)(=O)NN | C2H6N2O
solvent | ethanol | C(C)O | C2H6O
product | 1-acetyl-4-phenylthiosemicarbazide | C(C)(=O)NNC(=S)NC1=CC=CC=C1 | C9H11N3OS
